US09353104B2
Step B: 4,5-dimethylthiazole-2-carbaldehyde oxime (3)
To a solution of 4,5-dimethylthiazole-2-carbaldehyde (987 mg, 7.0 mmol) in 1,4-dioxane (35 mL) was added hydroxylamine hydrochloride (1.45 g, 21 mmol) and K2CO3 (3.8 g, 28 mmol). The resulting mixture was stirred at 100° C. for 2 hours and then diluted with EtOAc (150 mL), washed with H2O (30 mL*2). The organic layer was dried over Na2SO4, filtered and concentrated to give the crude product which was used for next step without further purification. LCMS m/z (M+H) 157.1 found, 157.1 required.

reactant | 4,5-dimethylthiazole-2-carbaldehyde | 7.0 mmol, 987 mg | CC=1N=C(SC1C)C=O | C6H7NOS
reactant | hydroxylamine hydrochloride | 21 mmol, 1.45 g | Cl.NO
reactant | K2CO3 | 28 mmol, 3.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 4,5-dimethylthiazole-2-carbaldehyde oxime | CC=1N=C(SC1C)C=NO | C6H8N2OS
